US04306097
6-(3-Butenyl)-3-ethoxy-2-cyclohexen-1-one
A solution of 25 g. (0.178 mole) of 3-ethoxy-2-cyclohexen-1-one in 25 ml. of tetrahydrofuran is added dropwise (30 min.) to a -78° C. solution of 0.196 mole of lithium diisopropylamide (from 27.4 ml., 0.196 mole, of diisopropylamine and 85 ml., 0.187 mole, of 2.2 M n-butyl lithium in hexane) in 125 ml. of tetrahydrofuran. The reaction is stirred 30 minutes longer and then 65 ml. (0.374 mole) of hexamethylphosphoramide is added followed by 38.9 ml. (0.383 mole) of 4-bromo-1-butene. The reaction is then allowed to warm to room temperature, stirred 1.5 hours and quenched by addition of 5 ml. (0.277 mole) of water. Most of the solvent is removed under reduced pressure and the residue diluted with one liter ice water and 500 ml. ether. The ether extract is washed with two 300 ml. portions of water, dried over magnesium sulfate and evaporated. Distillation of the crude oil yields 10.1 g. (29%) of the title product.

reactant | 3-ethoxy-2-cyclohexen-1-one | 0.178 mole | C(C)OC1=CC(CCC1)=O | C8H12O2
reactant | lithium diisopropylamide | 0.196 mole, 2.2 M, 27.4 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | hexamethylphosphoramide | 0.374 mole | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | 4-bromo-1-butene | 0.383 mole | BrCCC=C | C4H7Br
reactant | water | 0.277 mole | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 6-(3-Butenyl)-3-ethoxy-2-cyclohexen-1-one | 29% | C(CC=C)C1CCC(=CC1=O)OCC | C12H18O2
